US08252806B2
2-(3,5-Dimethyl-pyrazol-1-yl)-4-piperidin-1-yl-quinazoline, Hydrochloride (Compound A11)
Was prepared according to Method A from 2,4-dichloroquinazoline, piperidine and 3,5-dimethylpyrazole. Mp. 157° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | 2-(3,5-Dimethyl-pyrazol-1-yl)-4-piperidin-1-yl-quinazoline, Hydrochloride | Cl.CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)N1CCCCC1 | InChI=1S/C18H21N5.ClH/c1-13-12-14(2)23(21-13)18-19-16-9-5-4-8-15(16)17(20-18)22-10-6-3-7-11-22;/h4-5,8-9,12H,3,6-7,10-11H2,1-2H3;1H
